US08609644B2
Androstane-3,7,17-trione (II-bp)
To a stirred solution of 3β-hydroxyandrostane-7,17-dione (1.65 g), TPAP (0.100 g), NMNO (1.40 g) under N2 in CH2Cl2 (90 mL), molecular sieve type 4 Å powder (2.6 g) was added. After 0.5 h the mixture was filtered and the filtrate was purified by flash chromatography (SiO2, CH2Cl2) to give the title compound II-bp (1.32 g, 81%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 2.82-1.12 (m, 20H), 1.39 (s, 3H), 0.88 (s, 3H).

reactant | 3β-hydroxyandrostane-7,17-dione | 1.65 g | O[C@@H]1CC2CC([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C19H28O3
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.100 g | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | Androstane-3,7,17-trione | C[C@@]12C(CC[C@H]1[C@@H]1C(CC3CC(CC[C@]3(C)[C@H]1CC2)=O)=O)=O | C19H26O3
